US06608078B2
Sodium borohydride (0.456 g, 12.0 mmole) was added to the stirred solution of 1-benzyl-3,3-dimethylpiperidin-4-one [{prepared according to literature procedure described in U.S. Pat. No. 5,846,980} 5.4 g, 24.0 mmole] in methanol (25 ml) at 0-5° C. over a period of 15 min, and stirring was continued for 30 min. The reaction mixture was concentrated to dryness, triturated with water (25 ml) and extracted with ethyl acetate (2×100 ml). The extract was dried (sodium sulphate) and concentrated to dryness to furnish 1-benzyl-3,3-dimethyl-4-hydroxypiperidine as oil. Yield 5.2 g (96%), C14H2,NO, m/z 220 (M+1), PMR (CDCl3): 0.83 (3H, s, CH3), 1.13 (3H, s, CH3), 1.29 (1H, m, H5), 1.62-1.9 (2H, m, H2 & H5), 2.14 (1H, m, H6), 2.38 (1H, d, H2, j=12 Hz), 2.8 (1H, m, H6), 3.12 (1H, m, H4), 3.46 (2H, s, N—CH2), 7.3 (5H, m, ArH).

reactant | Sodium borohydride | 12.0 mmole, 0.456 g | [BH4-].[Na+]
reactant | 1-benzyl-3,3-dimethylpiperidin-4-one | C(C1=CC=CC=C1)N1CC(C(CC1)=O)(C)C | C14H19NO
solvent | methanol | 25 ml | CO | CH4O
product | 1-benzyl-3,3-dimethyl-4-hydroxypiperidine | C(C1=CC=CC=C1)N1CC(C(CC1)O)(C)C | C14H21NO
